Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Symptomatic uterine fibroids
 
Major Surgical or Invasive Procedure:
EUA, ABDOMINAL MULTIPLE MYOMECTOMIES (46)

 
History of Present Illness:
___ is a ___ gravida 2 para 0, TAB x 2 who
was referred by Dr. ___, her primary care physician to
discuss her uterine fibroids and treatment options.  Of note, 
she
is status post multiple myomectomy in ___ performed in ___ at ___.  She said that her uterine 
fibroids
were up to her chest bone.  Unfortunately, I do not have notes
from that operative procedure.  She was prescribed oral
contraceptive pills from the age of ___ in order to improve 
her
bleeding profile.

She denies dysmenorrhea, intermenstrual bleeding, postcoital
bleeding or dyspareunia.

On ___, she underwent a pelvic ultrasound which showed an
anteverted uterus that was enlarged and measured 18.4 x 13.1 x
16.2 cm.  There are multiple masses consistent with uterine
fibroids.  The largest fibroid was located intramural and
measured 5.6 x 7 x 5.9 cm.  The endometrium was not well
demonstrated, as it was distorted by fibroids.  The ovaries were
not seen however, there were no adnexal masses noted.  There is
no free pelvic fluid.  These findings were discussed with the
patient and her questions were answered.

Due to her heavy bleeding, she has had anemia.  On ___,
her hemoglobin was 8.7 with a hematocrit of 30%.
 
Past Medical History:
OB/GYN history:
Menarche at 14.
Menses vary in timing however she describes moderate bleeding
typically for 5 days.  During her heaviest bleeding episode she
changes a pad or tampon every 1.5 hours.  
Last Pap smear was ___ and was normal/she denies any history of
abnormal Paps.
She is heterosexual and sexually active with her ___ years.
She has been attempting pregnancy for the past several years.
___ she had a normal hysterosalpingogram.
Her male partner has not fathered any children and has not
initiated his workup.  Contraception: None
She denies any history of sexually transmitted infection/PID.
She has had 2 pregnancies-2 terminations of pregnancy both first
trimester in ___ and in ___.

Medical history: 
Uterine fibroids
Arthritic hips
Obesity

Operative history:
___ removal
___ foot surgery
___ foot surgery
___ myomectomies

 
Social History:
___
Family History:
Mother-lupus, diabetes
Father-diabetes, hypertension
Maternal grandmother-hypertension
___ grandmother-hypertension
 
Physical ___:
Physical exam on discharge
Vital Signs: stable and within normal limits
General: well-appearing in no acute distress, sitting upright 
for exam
HEENT: sclera anicteric
Pulmonary: clear to auscultation bilaterally posteriorly without 
wheezes, crackles, or rhonchi
CV: audible S1 + S2 without murmurs, rubs, or gallops
Abdomen: soft, non-distended, appropriately tender to palpation 
___ with dressing clean, dry, and intact. No 
surrounding erythema or drainage.
Extremities: without clubbing or pitting edema

 
Pertinent Results:
___ 05:00AM BLOOD WBC-11.1* RBC-3.03* Hgb-8.5* Hct-26.2* 
MCV-87 MCH-28.1 MCHC-32.4 RDW-17.3* RDWSD-54.1* Plt ___
___ 05:00AM BLOOD Glucose-137* UreaN-10 Creat-0.8 Na-138 
K-4.7 Cl-105 HCO3-22 AnGap-11
___ 05:00AM BLOOD Calcium-7.5* Phos-2.7 Mg-1.3*
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing EUA as well as myomectomy (46) for 
symptomatic uterine fibroids. Please see the operative report 
for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with intravenous HYDROmorphone 
and ketorolac. After receiving 2 units of packed red blood cells 
intraoperatively, the patient's hematocrit on 
post-operative day 1 was trended with a nadir of 22.3 in the 
evening. She received an additional 2 units of packed red blood 
cells early on post-operative day 2 with an inappropriately low 
increase in her hematocrit to 25.2. This value remained stable, 
however, and no further transfusions were necessary.   

On post-operative day 2, her urine output was adequate, so her 
foley was removed, and she voided spontaneously. Her diet was 
advanced without difficulty, and she was transitioned to an oral 
regimen of oxycodone, acetaminophen, and ibuprofen.

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
1. Norethindrone (contraceptive): 0.35 mg tablet once daily
2. Ferrous sulfate 142 mg tablet once daily
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
Do not take more than 4 g per day 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Do not take more than 3.2 g per day 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic uterine fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___